US07084139B2
tert-Butyl (2S)-2-{(3S)-3-[[(6-chloro-2-naphthyl)sulfonyl](2-oxobutyl)amino]-2-oxopyrrolidin-1-yl}propanoate
A solution of tert-butyl (2S)-2-((3S)-3-{[(6-chloro-2-naphthyl)sulfonyl]amino}-2-oxopyrrolidin-1-yl)propanoate (0.07 g) in THF (2 ml) was cooled to −78° C. under nitrogen, and treated with lithium bis(trimethylsilyl) amide (1.0M solution in THF; 0.186 ml), followed by 1-bromo-2-butanone (0.08 ml). The resultant solution was allowed to reach room temperature and stirred for a further 72 h. Methanol (1 ml) was added and the resultant solution concentrated under reduced pressure. The residue was purified using SPE (silica, eluting with cyclohexane:ethyl acetate 10:1, 5:1, 3:1, 2:1, 1:1, 1:2, 1:3, 1:5, ethyl acetate and methanol:ethyl acetate 1:9) to give the title compound (0.07 g) as a gum.

reactant | tert-butyl (2S)-2-((3S)-3-{[(6-chloro-2-naphthyl)sulfonyl]amino}-2-oxopyrrolidin-1-yl)propanoate | 0.07 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N[C@@H]1C(N(CC1)[C@H](C(=O)OC(C)(C)C)C)=O | C21H25ClN2O5S
reactant | lithium bis(trimethylsilyl) amide | 1.0M, 0.186 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 1-bromo-2-butanone | 0.08 ml | BrCC(CC)=O | C4H7BrO
reactant | Methanol | 1 ml | CO | CH4O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | tert-Butyl (2S)-2-{(3S)-3-[[(6-chloro-2-naphthyl)sulfonyl](2-oxobutyl)amino]-2-oxopyrrolidin-1-yl}propanoate | 0.07 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N([C@@H]1C(N(CC1)[C@H](C(=O)OC(C)(C)C)C)=O)CC(CC)=O | C25H31ClN2O6S
